US07723331B2
6-(4-Chlorophenyl)-3-[3-(4-methylpiperazin-1-yl)benzyl]thieno[3,2-d]pyrimidin-4(3H)-one
A mixture of 5-(4-chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester (0.189 g, 0.585 mmol), 3-(4-methyl-piperazin-1-yl)-benzylamine (0.100 g, 0.487 mmol) and phenol (1.0 g) was stirred at 130° C. for 1.5 hours. The reaction mixture was allowed to cool to r.t. and MeOH (10 mL) was added. After 30 minutes the precipitate was filtered off and washed with MeOH (50 mL). The crude product was purified by flash chromathography using a mixture of EtOAc, MeOH and TEA as eluent to give the product as an off white solid. Yield: 0.079 g (30%). 1H NMR (400 MHz, CDCl3) δ 8.08 (s, 1H), 7.60 (d, 2H, J=7.92 Hz), 7.44 (s, 1H), 7.40 (d, 2H, J=7.92 Hz), 7.22 (m, 1H), 6.92 (bs, 1H), 6.85 (d, 1H, J=7.92 Hz), 6.79 (d, 1H, J=7.46 Hz), 5.15 (s, 2H), 3.19 (m, 4H), 2.53 (m, 4H), 2.32 (s, 3H). MS (ESI+) 450.95 (M+1H+).

reactant | 5-(4-chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester | 0.585 mmol, 0.189 g | COC(=O)C=1SC(=CC1N=CN(C)C)C1=CC=C(C=C1)Cl | C15H15ClN2O2S
reactant | 3-(4-methyl-piperazin-1-yl)-benzylamine | 0.487 mmol, 0.100 g | CN1CCN(CC1)C=1C=C(CN)C=CC1 | C12H19N3
reactant | phenol | 1.0 g | C1(=CC=CC=C1)O | C6H6O
solvent | MeOH | 10 mL | CO | CH4O
product | 6-(4-Chlorophenyl)-3-[3-(4-methylpiperazin-1-yl)benzyl]thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=CC(=CC=C1)N1CCN(CC1)C | C24H23ClN4OS
